US04663332
1-[2-Hydroxy-3-propyl-4-[5-(1H-tetrazol-5-yl)pentyloxy]phenyl ethanone
A mixture of 13.70 g 5-(4-acetyl-3-hydroxy-2-propylphenoxy)hexane-nitrile, 9.30 g sodium azide, 7.65 g ammonium chloride in 275 mL anhydrous dimethylformamide was stirred and heated at 120° for 90 hr. An additional 3.10 g of sodium azide and 2.57 g of ammonium chloride were added after 54 hr. The solvent was removed in vacuo and the residual solid was treated with 350 mL of water and acidified with 7 mL of 6N hydrochloric acid. The product was extracted with ethyl acetate and the dried (magnesium sulfate) extract was concentrated in vacuo to give an oil which was purified by high pressure liquid chromatography. Elution with toluene (70):ethyl acetate (25):acetic acid (10) gave a solid which was recrystallized from acetone-hexane. Filtration gave 8.55 g, mp 98°-100°, of 1-[2-hydroxy-3-propyl-4-[5-1H-tetrazol-5-yl)pentyloxy]phenyl ethanone. A second crop of 1.80 g, mp 94°-97°, was obtained.

reactant | 5-(4-acetyl-3-hydroxy-2-propylphenoxy)hexane-nitrile | 13.70 g | C(C)(=O)C1=C(C(=C(OC(CCCC#N)C)C=C1)CCC)O | C17H23NO3
reactant | sodium azide | 9.30 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 7.65 g | [Cl-].[NH4+]
reactant | sodium azide | 3.10 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.57 g | [Cl-].[NH4+]
reactant | dimethylformamide | 275 mL | CN(C=O)C | C3H7NO
product | 2-Hydroxy-3-propyl-4-[5-(1H-tetrazol-5-yl)pentyloxy]phenyl ethanone | OC1=C(C=CC(=C1CCC)OCCCCCC1=NN=NN1)C(C)=O | C17H24N4O3
